US06602864B1
2-(5-Chloro-thiophen-2-yl)-ethenesulfonic Acid [2-oxo-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-3-(S)-yi]-amide
The title compound is prepared as described in EXAMPLE 56. Part A using 2-(5-chlorothiophen-2-yl)-ethenesulfonyl chloride and 2-[3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester as starting material. The crude product can be purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the title compound as a white solid or used in the subsequent step after an aqueous work-up without further purification.

reactant | 2-(5-chlorothiophen-2-yl)-ethenesulfonyl chloride | ClC1=CC=C(S1)C=CS(=O)(=O)Cl | C6H4Cl2O2S2
reactant | 2-[3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C([C@H](CC2)N)=O | C17H22N4O3
product | 2-(5-Chloro-thiophen-2-yl)-ethenesulfonic Acid [2-oxo-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-3-(S)-yi]-amide | O=C1N(CC[C@@H]1NS(=O)(=O)C=CC=1SC(=CC1)Cl)CC1=CC=2C=NC=CC2N1 | C18H17ClN4O3S2
